US07625890B2
a) (2S)-1-({[2,4-Bis(methyloxy)phenyl]methyl}amino)-3-[(phenylmethyl)oxy]-2-propanol
To a stirred solution of 2,4-dimethoxybenzylamine (1.00 g, 5.99 mmol) in MeOH (30 mL) at room temperature was added benzyl(S)-(+)-glycidyl ether (0.88 g, 5.40 mmol). After 12 h the reaction was concentrated in vacuo. The residue was dissolved in ethyl acetate (75 mL) and washed sequentially with 1 N HCl (25 mL) and brine (25 mL). The solution was dried over MgSO4, filtered and the solvent removed under reduced pressure to give 1.35 g of the crude oil that was used in the next step without further purification. MS (ES+) m/z 332.2 (M+H)+.

reactant | 2,4-dimethoxybenzylamine | 5.99 mmol, 1.00 g | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | benzyl(S)-(+)-glycidyl ether | 5.40 mmol, 0.88 g | C([C@@H]1CO1)OCC1=CC=CC=C1 | C10H12O2
solvent | MeOH | 30 mL | CO | CH4O
product | (2S)-1-({[2,4-Bis(methyloxy)phenyl]methyl}amino)-3-[(phenylmethyl)oxy]-2-propanol | 1.35 g | COC1=C(C=CC(=C1)OC)CNC[C@@H](COCC1=CC=CC=C1)O | C19H25NO4
